US05475106
Using a procedure similar to that described in Example 11, but starting with tert-butyl 2-[2-amino-N-(2-methoxyphenyl)acetamido]acetate (4.2 g) and 3-methylphenyl isocyanate (1.9 g), and after recrystallisation in ethyl acetate, tert-butyl 2-{N-(2-methoxyphenyl)-2-[3-(3-methylphenyl)ureido]acetamido}acetate (3 g), m.p. 171° C., is obtained.

reactant | tert-butyl 2-[2-amino-N-(2-methoxyphenyl)acetamido]acetate | 4.2 g | NCC(=O)N(C1=C(C=CC=C1)OC)CC(=O)OC(C)(C)C | C15H22N2O4
reactant | 3-methylphenyl isocyanate | 1.9 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | tert-butyl 2-{N-(2-methoxyphenyl)-2-[3-(3-methylphenyl)ureido]acetamido}acetate | 3 g | COC1=C(C=CC=C1)N(C(CNC(=O)NC1=CC(=CC=C1)C)=O)CC(=O)OC(C)(C)C | C23H29N3O5
